US08877782B2
6-[3-(5-Fluoro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid
As described for example 283, 6-[3-(5-fluoro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (175 mg, 0.51 mmol) was converted, instead of 6-(5-methyl-3-pyridin-2-yl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester, to the title compound (154 mg, 92%) which was obtained as a white solid. MS: m/e=328.3 [M−H]−.

reactant | 6-[3-(5-fluoro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 0.51 mmol, 175 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=NC=C(C=C1)F)=O | C17H14FN3O4
reactant | 6-(5-methyl-3-pyridin-2-yl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=NC=CC=C1)=O | C17H15N3O4
product | 6-[3-(5-Fluoro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid | 154 mg, 92% | FC=1C=CC(=NC1)C1=NOC(=C1COC1=NC=C(C(=O)O)C=C1)C | C16H12FN3O4
